US04778577
Bromine (10.6 g) was slowly added at 20° C. over 8 hours to a mixture of N-benzyl-3,3-bis(hydroxymethyl)azetidine (2.1 g) in water (50 ml) containing sodium hydroxide (9.3 g) and nickel chloride 6.0 aq. (1.5 g). After stirring overnight, the green precipitate of nickel hydroxide was filtered off, and the filtrate evaporated to dryness. The residue was boiled in ethanol, and the insoluble material (desired product as sodium salt and sodium bromide) separated and worked up to yield the N-benzyl-azetidine-3,3-dicarboxylic acid.

reactant | Bromine | 10.6 g | BrBr | Br2
reactant | N-benzyl-3,3-bis(hydroxymethyl)azetidine | 2.1 g | C(C1=CC=CC=C1)N1CC(C1)(CO)CO | C12H17NO2
reactant | sodium hydroxide | 9.3 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
catalyst | nickel sulphate | S(=O)(=O)([O-])[O-].[Ni+2]
product | N-benzyl-azetidine-3,3-dicarboxylic acid | C(C1=CC=CC=C1)N1CC(C1)(C(=O)O)C(=O)O | C12H13NO4
